US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionate (6.2 g) and potassium hydroxide (2.1 g) in a mixture of ethanol (60 ml) and water (30 ml) was refluxed under heating for 72 hours, and the reaction mixture was evaporated. Water was added to the residue, washed with diethyl ether, acidified with conc. hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried and then evaporated to give oily 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionic acid (3.85 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionate | 6.2 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)OC1=C(C=CC=C1)F)OC | C19H18FNO4
reactant | potassium hydroxide | 2.1 g | [OH-].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionic acid | 3.85 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)F)C(C(=O)O)C | C16H15FO4
